US08748418B2
2-Bromo-N—[(R)-1-(5-bromo-2-fluoro-phenyl)-2,2-difluoro-3-hydroxy-1-methyl-propyl]-acetamide
Prepared in an analogous manner as described for intermediate A15A from (R)-3-amino-3-(5-bromo-2-fluoro-phenyl)-2,2-difluoro-butan-1-ol (intermediate A14B) (2.96 g, 9.93 mmol) and bromoacetyl chloride (1.72 g, 914 μl, 10.9 mmol). Obtained was the title compound as an off-white solid. MS (ISP): m/z=418.0 [(M+H)+], 420.0 [(M+2+H)+] and 422.0 [(M+4+H)+].

reactant | (R)-3-amino-3-(5-bromo-2-fluoro-phenyl)-2,2-difluoro-butan-1-ol | 9.93 mmol, 2.96 g | N[C@](C(CO)(F)F)(C)C1=C(C=CC(=C1)Br)F | C10H11BrF3NO
reactant | bromoacetyl chloride | 10.9 mmol, 914 μl, 1.72 g | BrCC(=O)Cl | C2H2BrClO
product | 2-Bromo-N—[(R)-1-(5-bromo-2-fluoro-phenyl)-2,2-difluoro-3-hydroxy-1-methyl-propyl]-acetamide | BrCC(=O)N[C@](C(CO)(F)F)(C)C1=C(C=CC(=C1)Br)F | C12H12Br2F3NO2
